US06274120B1
i) Methylene bis(16-chloromethoxycarbonyloxyhexadecanoate)
Chloromethyl chloroformate (0.93 g, 7.2 mmol) was added to an ice-cooled solution of methylene bis(16-hydroxyhexadecanoate) (2.0 g, 3.6 mmol) in methylene chloride (80 ml). Pyridine (0.57 g, 7.2 mmol) was added and the reaction mixture was stirred for 15 minutes at 0° C. and 4 hours at room temperature The reaction mixture was washed with hydrochloric acid (1M, 50 ml) saturated aqueous sodium bicarbonate (50 ml), water (50 ml) and dried (MgSO4). The solvent was evaporated and the residue was purified by flash chromatography (silica/methylene chloride). Yield: 84% 1H NMR (200 MHz, CDCl3): δ 1.25 (m, 44H), 1.72 (m, 8H), 2.31 (t, 4H), 4.20 (t, 4H), 5.72 (m, 6H).

reactant | Chloromethyl chloroformate | 7.2 mmol, 0.93 g | ClC(=O)OCCl | C2H2Cl2O2
reactant | methylene bis(16-hydroxyhexadecanoate) | 3.6 mmol, 2.0 g | OCCCCCCCCCCCCCCCC(=O)OCOC(CCCCCCCCCCCCCCCO)=O | C33H64O6
reactant | Pyridine | 7.2 mmol, 0.57 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | Methylene bis(16-chloromethoxycarbonyloxyhexadecanoate) | Yield: 84% | ClCOC(=O)OCCCCCCCCCCCCCCCC(=O)OCOC(CCCCCCCCCCCCCCCOC(=O)OCCl)=O | C37H66Cl2O10
